US05932571
Combine (S)-4-benzyl-2-oxazolidinone (22.9 g, 129 mmol) and tetrahydrofuran (120 mL). Cool in a dry-ice acetone bath. Add dropwise a solution of n-butyl lithium (52 mL, 2.5 M, 130 mmol). After 15 minutes, slowly add a solution of 4-fluorophenylacetyl chloride (22.3 g, 129 mmol) in tetrahydrofuran (50 mL). Warm to ambient temperature. After 2 hours, quench the reaction mixture by the addition of a saturated aqueous sodium bicarbonate solution. Separate the layers and extract the aqueous layer with diethyl ether. Combine the organic layers, dry over Na2SO4, filter, and evaporate in vacuo to give a residue. Chromatograph the residue on silica gel eluting wit 15% ethyl acetate/hexane. Combine the product containing fractions, evaporate, and recrytallize from diethyl ether/hexane to give (S)-4-benzyl-3-(4-fluorophenyl)acetyl-2-oxazolidinone.

reactant | (S)-4-benzyl-2-oxazolidinone | 129 mmol, 22.9 g | C(C1=CC=CC=C1)[C@@H]1NC(OC1)=O | C10H11NO2
reactant | n-butyl lithium | 130 mmol, 2.5 M, 52 mL | C(CCC)[Li]
reactant | 4-fluorophenylacetyl chloride | 129 mmol, 22.3 g | FC1=CC=C(C=C1)CC(=O)Cl | C8H6ClFO
reactant | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 120 mL | O1CCCC1 | C4H8O
product | (S)-4-benzyl-3-(4-fluorophenyl)acetyl-2-oxazolidinone | C(C1=CC=CC=C1)[C@@H]1N(C(OC1)=O)C(CC1=CC=C(C=C1)F)=O | C18H16FNO3
